US09167821B2
To a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (81 mg) and potassium carbonate (105 mg) in N,N-dimethylformamide (5 ml) are added, at room temperature, 1-bromo-2-methoxyethane (84 mg) and potassium iodide (2.5 mg). The reaction mixture is stirred at 80° C. for 3 h. Then the mixture is admixed with water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated. Purification by column chromatography gives 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(2-methoxyethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone (41 mg).

reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 81 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)O)F | C24H23F4N5O3S
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 84 mg | BrCCOC | C3H7BrO
reactant | potassium iodide | 2.5 mg | [I-].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(2-methoxyethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone | 41 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)OCCOC)F | C27H29F4N5O4S
